*Model 4n33
*FORMAT:  SPICE3
.subckt 4n33 4 5 3 1 2
* 4 -> LED ANODE   5 -> LED CATHODE
* 3 -> EMITTER     1 -> COLLECTOR   2 -> BASE

DIO  4  10  4n33_dio
VD  10  5  0V
RD  4  5  6e7
FDD  0  2  VD  0.15
RF  2  0  1e9
CF  1  4  1e-12
XDAR  1 2 3  4n33_dar
RDAR  1  3  4e9

.ends 4n33

* MODEL FORMAT: SPICE3
.MODEL 4n33_dio d
+IS=2.90836e-12 RS=1.81548 N=2 EG=0.644108
+XTI=3.99996 BV=1000 IBV=0.0001 CJO=2.02387e-11
+VJ=0.4 M=0.271299 FC=0.5 TT=1e-09
+KF=0 AF=1

.SUBCKT 4n33_dar 1 2 3
* MODEL FORMAT: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=8.93463
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10.5392 N=1.00539 XTI=3.00539
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.40152e-12 BF=46.1011 NF=1.2 VAF=30
+IKF=0.00662634 ISE=9.73117e-14 NE=1.23006 BR=4.14416
+NR=1.5 VAR=146.759 IKR=0.0662634 ISC=9.73117e-14
+NC=2.0474 RB=10.7666 IRB=0.205422 RBM=10.5475
+RE=0.100058 RC=0.99859 XTB=0.457057 XTI=2.9909 EG=1.05
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1e-11
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.40152e-12 BF=46.1011 NF=1.2 VAF=30
+IKF=0.00662634 ISE=9.73117e-14 NE=1.23006 BR=4.14416
+NR=1.5 VAR=146.759 IKR=0.0662634 ISC=9.73117e-14
+NC=2.0474 RB=10.7666 IRB=0.205422 RBM=10.5475
+RE=0.100058 RC=0.99859 XTB=0.457057 XTI=2.9909 EG=1.05
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS 4n33_dar
