* model moc223
* FORMAT:  SPICE3
.subckt moc223 4 5 3 1 2
* 4 -> LED ANODE   5 -> LED CATHODE
* 3 -> EMITTER     1 -> COLLECTOR   2 -> BASE

DIO  4  10  moc223_dio
VD  10  5  0V
RD  4  5  6e7
*FDD  0  2  VD  0.1
*RF  2  0  1e9
FI  0  11  VD  1
RFI  11  0  1000
XDL  11  0  12  delay
VDD  12  13  0
RXDL  13  0  1000
FDD  0  2  VDD  0.1
RF  2  0  1e9
CF  1  4  1e-12
XDAR  1 2 3  moc223_dar
RDAR  1  3  4e9

.ends moc223

* MODEL FORMAT: SPICE3
.MODEL moc223_dio d
+IS=2.12534e-12 RS=1.37765 N=2 EG=0.6
+XTI=2.96819 BV=1000 IBV=0.0001 CJO=1.84171e-11
+VJ=1.203 M=0.356504 FC=0.5 TT=1e-09
+KF=0 AF=1

.SUBCKT  delay  1  2  3
* Nodes: <Vin> <GGND> <Vout>
* Vin  -->  Input Voltage
* GGND -->  Global Ground
* Vout -->  Output Voltage
RIN	1	2	1.0E9
E1	10	0	1	2	1
TD	10	0	11	0	Z0=50 TD=3e-06
RD	11	0	50
EO	30	2	11	0	1
RO1	30	3	1
RO2	3	2	1.0E9
.ENDS  delay 

.SUBCKT moc223_dar 1 2 3
* MODEL FORMAT: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=8.88022
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.52529 N=0.995253 XTI=2.99525
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.99506e-12 BF=19.5647 NF=1.11791 VAF=56.0325
+IKF=0.088067 ISE=1.43852e-13 NE=2.13329 BR=1.01562
+NR=1.45409 VAR=98.9714 IKR=0.0952542 ISC=9.99997e-14
+NC=1.99519 RB=9.57894 IRB=0.195253 RBM=9.52549
+RE=0.0977153 RC=0.999915 XTB=0.503191 XTI=2.99553 EG=1.11591
+CJE=2.15822e-11 VJE=0.95 MJE=0.23 TF=9.99885e-10
+XTF=1 VTF=10 ITF=0.01 CJC=1.56635e-11
+VJC=0.432344 MJC=0.345351 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.99506e-12 BF=19.5647 NF=1.11791 VAF=56.0325
+IKF=0.088067 ISE=1.43852e-13 NE=2.13329 BR=1.01562
+NR=1.45409 VAR=98.9714 IKR=0.0952542 ISC=9.99997e-14
+NC=1.99519 RB=9.57894 IRB=0.195253 RBM=9.52549
+RE=0.0977153 RC=0.999915 XTB=0.503191 XTI=2.99553 EG=1.11591
+CJE=2.15822e-11 VJE=0.95 MJE=0.23 TF=9.99885e-10
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.432344 MJC=0.345351 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS moc223_dar
